US06500863B1
N-[3-(4-morpholinyl)propyl]-2,6-dichloro3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (2.0 g, 6.88 mmol), 4-(3-aminopropyl)morpholine (993 mg, 6.88 mmol) and triethylamine(1.92 mL, 13.76 mmol) were reacted to form the desired product (2.04 g, 74%). LC-MS (m/z) 398.0 (M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 6.88 mmol, 2.0 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 4-(3-aminopropyl)morpholine | 6.88 mmol, 993 mg | NCCCN1CCOCC1 | C7H16N2O
reactant | triethylamine | 13.76 mmol, 1.92 mL | C(C)N(CC)CC | C6H15N
product | N-[3-(4-morpholinyl)propyl]-2,6-dichloro3-nitrobenzenesulfonamide | 2.04 g, 74% | N1(CCOCC1)CCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C13H17Cl2N3O5S
